US06353006B1
To a solution of 2-isopropyltetrahydro-1,3-oxazole (4.94 g, 38.2 mmol) in abs. EtOH (100 mL) at 0° C. was added NaBH4 (2.17 g (57.4 mmol, 1.5 equiv.) in small portions over 15 min. and the resulting mixture was stirred at room temp.overnight. The resulting mixture was concentrated under reduced pressure, then treated with EtOAc (150 mL) and water (100 mL) (CAUTION; gas evolution), and stirred at room temp for 30 min. The resulting organic layer was washed with a saturated NaCl solution. The combined aqueous layers were back-extracted with EtOAc (150 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure to afford N-isobutyl-3-hydroxypropylamine as a colorless oil (5.04 g, 100%): 1H NMR (CDCl3) δ0.84 (d, J=6.6 Hz, 6H), 1.60-1.71 (m, 3H), 2.36 (d, J=6.6 Hz, 2H), 2.80 (dd, J=5.9, 5.9 Hz, 2H), 3.10-3.30 (br s, 2H), 3.74 (dd,, J=5.5, 5.5 Hz, 2H); 13C NMR (CDCl3) δ20.5, 28.1, 30.6, 50.0, 57.8, 64.1.

reactant | 2-isopropyltetrahydro-1,3-oxazole | 38.2 mmol, 4.94 g | C(C)(C)C1OCCN1 | C6H13NO
reactant | NaBH4 | [BH4-].[Na+]
reactant | EtOH | 100 mL | CCO | C2H6O
product | N-isobutyl-3-hydroxypropylamine | 5.04 g, 100% | C(C(C)C)NCCCO | C7H17NO
